US08871756B2
N-[6-Methyl-2-(2-methyl-1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinolin-4-yl]ethane-1,2-diamine
The title compound was prepared in analogy to Example 9-1 in Scheme 30 by using 4-(4-chloro-6-methylquinolin-2-yl)-2-methyl-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide and ethane 1,2-diamine. MS obsd. (ESI+) [(M+H)+] 411, 1H NMR (400 MHz, CD3OD) δ ppm 8.01 (d, J=7.83 Hz, 1 H), 7.85 (brs, 1 H), 7.70-7.60 (m, 2 H), 7.52-7.40 (m, 2 H), 7.30 (dd, J=8.59, 1.77 Hz, 1 H), 6.03 (s, 1 H), 5.13 (brs, 2 H), 3.67-3.57 (m, 1 H), 3.56-3.48 (m, 2 H), 3.31-3.30 (m, 3 H), 3.15-3.04 (m, 2 H), 2.42 (s, 3 H), 1.51 (brs, 2 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2-methyl-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CC(S(C2=C(C1)C=CC=C2)(=O)=O)C | C20H19ClN2O2S
reactant | ethane 1,2-diamine | C(CN)N | C2H8N2
product | N-[6-Methyl-2-(2-methyl-1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinolin-4-yl]ethane-1,2-diamine | CC=1C=C2C(=CC(=NC2=CC1)N1CC(S(C2=C(C1)C=CC=C2)(=O)=O)C)NCCN | C22H26N4O2S
